US07144896B2
Step 1: 3-Dihydroxylboranyl-4-fluoro-benzoic acid
To solution of 3-Bromo-4-fluoro-benzoic acid (1.0 eq) in THF (0.2M) at −78° C. was added n-BuLi (2.5M in Hex; 2.2 eq). The resulting mixture was stirred at −78° C. for 15 min then tri-isopropoxy borane (2.2 eq). The final mixture was stirred 1 h at −78° C. then 4 h at room temperature and finally poured in HCl (10%). After stirring for 12 h, THP was evaporated and the residual mixture was diluted with EtOAc. The organic extract was washed with HCl (10%), brine, dried over MgSO4, filtered and concentrated. The residue was suspended in EtOAc, stirred for 4 h and the desired compound was isolated by filtration.

reactant | 3-Bromo-4-fluoro-benzoic acid | 1.0 eq | BrC=1C=C(C(=O)O)C=CC1F | C7H4BrFO2
reactant | n-BuLi | 2.5M, 2.2 eq | [Li]CCCC
reactant | tri-isopropoxy borane | 2.2 eq | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 0.2M | C1CCOC1 | C4H8O
solvent | HCl | Cl | ClH
product | 3-Dihydroxylboranyl-4-fluoro-benzoic acid | OB(C=1C=C(C(=O)O)C=CC1F)O | C7H6BFO4
